US05466697
Methyl 2-Benzoylnicotinate (2.41 g., 10 mmoles) was dissolved in 250 ml ammonium hydroxide. To this solution was carefully added a catalytic amount of copper (II) sulfate (approx. 100 mg) and zinc powder (7.0 g., 100 mmoles). The mixture was refluxed for 6 days and allowed to cool. The mixture was filtered (pad of celite), acidified to pH 5 with 1N HCl, exhaustively extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered, concentrated under vacuum, and purified by column chromatography to give 0.70 grams (33% yield) of 2-benzylnicotinic acid as a white solid. Characteristic analytical data are as follows: mp 180°-182.5° C.; TLC in 20:1.8:0.2 (EtOAc/MeOH/HOAc); 1H NMR (DMSO-d6, 300 MHz) δ4.50 (s, 2H), 7.12-7.48 (m, 5H), 8.18 (dd, 1H, J=8.0, 1.6 Hz), 8.63 (dd, 1H, J=4.8, 1.5 Hz); 13C NMR (75 MHz, DMSO-d6) δ167.84, 160.17, 151.55, 139.85, 138.38, 128.75, 128.04, 126.37, 125.79, 121.57, 41.35, 39.76; mass spectrum (EI) , m/e 213.

reactant | Methyl 2-Benzoylnicotinate | 10 mmoles, 2.41 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)OC)C=CC=N1 | C14H11NO3
solvent | ammonium hydroxide | 250 ml | [OH-].[NH4+]
catalyst | copper (II) sulfate | approx. 100 mg | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | zinc | 100 mmoles, 7.0 g | [Zn] | Zn
product | 2-benzylnicotinic acid | 0.70 grams, 33% yield | C(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=N1 | C13H11NO2
